US07737149B2
Trifluoroacetic acid (7.84 mL, 101.73 mmol) was added to a stirred solution of tert-butyl 4-cyclobutylpiperazine-1-carboxylate (2.445 g, 10.17 mmol) in DCM (25 mL) cooled to 0° C. under nitrogen and stirred at 20° C. for 24 h. The reaction mixture was evaporated to dryness and diluted with DCM (30 mL). This was then washed with saturated NaHCO3 (2×10 mL) and the organic layers evaporated to dryness. Product was still present in the aqueous layer, so this was basified with 2M NaOH and extracted with DCM (3×10 mL) and EtOAc (1×10 mL). Organic fractions were combined and evaporated to dryness to afford 1-cyclobutylpiperazine (0.430 g, 30.1%). 1H NMR (399.9 MHz, DMSO-d6) δ 1.60-1.67 (2H, m), 1.72-1.80 (2H, m), 1.93-1.97 (2H, m), 2.25 (4H, s), 2.57-2.60 (1H, d), 2.82 (4H, t)

reactant | Trifluoroacetic acid | 101.73 mmol, 7.84 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-cyclobutylpiperazine-1-carboxylate | 10.17 mmol, 2.445 g | C1(CCC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H24N2O2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-cyclobutylpiperazine | 0.430 g, 30.1% | C1(CCC1)N1CCNCC1 | C8H16N2
